US04046900
By following the manipulative procedures described above in Example 1(c), and (d), 37.4 g of 1-acetylisonipecotoyl chloride, [Example 1(b)] and 40 g of aluminum chloride in 90 ml of chlorobenzene are reacted to produce 4-(4-chlorobenzoyl)piperidine hydrochloride. The salt is recrystallized thrice from an ethanol-ether mixture to give a white product, mp. 233°-235° C.

reactant | 1-acetylisonipecotoyl chloride | 37.4 g | C(C)(=O)N1CCC(C(=O)Cl)CC1 | C8H12ClNO2
reactant | aluminum chloride | 40 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | chlorobenzene | 90 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 4-(4-chlorobenzoyl)piperidine hydrochloride | Cl.ClC1=CC=C(C(=O)C2CCNCC2)C=C1 | InChI=1S/C12H14ClNO.ClH/c13-11-3-1-9(2-4-11)12(15)10-5-7-14-8-6-10;/h1-4,10,14H,5-8H2;1H
